US07348456B2
Step D: 3-(3-Bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanol
To a solution of 3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanone (1.6 g, 4.6 mmol) in methanol (50 mL) was added sodium borohydride (0.26 g, 6.8 mmol). After stirring at room temperature for 10 min, the reaction was quenched by addition of saturated aqueous ammonium chloride (25 mL). The precipitate was filtered off and washed with ethyl acetate (25 mL). The organic layer of the filtrate was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to dryness. The residue was purified by flash column chromatography on silica gel eluted with 5% ethyl acetate in hexane to afford the title compound as two separate diastereomers. Faster eluting diastereomer (Diastereomer α) 1H NMR (400 MHz, CD3OD): δ 7.63 (s, 1H), 7.42-7.18 (m, 3H), 7.05 (d, 2H), 6.80 (d, 2H), 3.92 (q, 1H), 3.19 (d, 1H), 2.86 (d, 1H), 1.13 (s, 3H), 1.02 (d, 3H). Slower eluting diastereomer (Diastereomer β) 1H NMR (400 MHz, CD3OD): 7.40-7.18 (m, 4H), 7.04 (d, 2H), 6.64 (d, 2H), 4.12 (q, 1H), 3.04 (ABq, 2H), 1.17 (s, 3M), 0.84 (d, 3H).

reactant | 3-(3-bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanone | 4.6 mmol, 1.6 g | BrC=1C=C(C=CC1)C(C(C)=O)(CC1=CC=C(C=C1)Cl)C | C17H16BrClO
reactant | sodium borohydride | 6.8 mmol, 0.26 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-(3-Bromophenyl)-4-(4-chlorophenyl)-3-methyl-2-butanol | BrC=1C=C(C=CC1)C(C(C)O)(CC1=CC=C(C=C1)Cl)C | C17H18BrClO
